US07846928B2
Preparation of 6-Isopropyl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile
In analogy to GP 1, reaction of 61.7 g ammonium acetate (800 mmol, 8 eq.), 10.67 ml ethyl cyanoacetate (100 mmol, 1 eq.), 10.71 ml 3-methyl-butan-2-one (100 mmol, 1 eq.), and 15.12 g 4-nitrobenzaldehyde (100 mmol, 1 eq.) yielded 4.24 g product (15% yield).

reactant | ammonium acetate | 800 mmol, 61.7 g, 8 eq. | C(C)(=O)[O-].[NH4+]
reactant | ethyl cyanoacetate | 100 mmol, 10.67 ml, 1 eq. | C(#N)CC(=O)OCC | C5H7NO2
reactant | 3-methyl-butan-2-one | 100 mmol, 10.71 ml, 1 eq. | CC(C(C)=O)C | C5H10O
reactant | 4-nitrobenzaldehyde | 100 mmol, 15.12 g, 1 eq. | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
product | 6-Isopropyl-4-(4-nitro-phenyl)-2-oxo-1,2-dihydro-pyridine-3-carbonitrile | 4.24 g, 15% yield | C(C)(C)C1=CC(=C(C(N1)=O)C#N)C1=CC=C(C=C1)[N+](=O)[O-] | C15H13N3O3
